US04426386
A solution of the HCl-salt of methyl-3-(3-pyridyl)-benzoate (5.54 g, 0.022 mol) in methanol was hydrogenated (atm. pressure) at r.t. using PtO2 as catalyst. After filtration and evaporation the residue was partitioned between a saturated potassium-carbonate solution and ether. The ether layer was dried (K2CO3), cooled and treated with triethylamine (2.23 g, 0.022 mol) and propionylchloride (2.05 g, 0.033 mol). Stirring at r.t. for one hour followed by filtration and evaporation gave an oil which was eluated twice through an Al2O3 -column with ether. Evaporation of the ether gave 4.8 g of pure methyl-3-(1-propionylpiperidin-3-yl)benzoate as an oil, which could not be crystallized.

reactant | methyl-3-(3-pyridyl)-benzoate | 0.022 mol, 5.54 g | COC(C1=CC(=CC=C1)C=1C=NC=CC1)=O | C13H11NO2
reactant | triethylamine | 0.022 mol, 2.23 g | C(C)N(CC)CC | C6H15N
reactant | propionylchloride | 0.033 mol, 2.05 g | C(CC)(=O)Cl | C3H5ClO
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
catalyst | PtO2 | O=[Pt]=O
product | methyl-3-(1-propionylpiperidin-3-yl)benzoate | 4.8 g | COC(C1=CC(=CC=C1)C1CN(CCC1)C(CC)=O)=O | C16H21NO3
